US08492378B2
ethyl 5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-carboxylate
A mixture of 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole (837 mg, 3.00 mmol), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride dichloromethane complex (245 mg, 0.300 mmol), triethylamine (0.836 mL, 6.00 mmol), dimethyl sulfoxide (6 mL) and ethanol (3 mL) was stirred under a carbon monoxide atmosphere at 100° C. for 10 hr. After cooling, the reaction mixture was diluted with ethyl acetate, and insoluble material was removed by filtration. The filtrate was washed with 1M hydrochloric acid, water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from ethyl acetate to give the title compound (379 mg, yield 46%) as colorless crystals.

reactant | 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole | 3.00 mmol, 837 mg | BrC1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C11H7BrN2O2
reactant | triethylamine | 6.00 mmol, 0.836 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 6 mL | CS(=O)C | C2H6OS
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-carboxylate | 379 mg, yield 46% | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C(=O)OCC)C1 | C14H12N2O4
